************************************************************************
* auCdl Netlist:
* 
* Library Name:  ic
* Top Cell Name: OTA_for_LV_19
* View Name:     schematic
* Netlisted on:  May 16 17:04:39 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ic
* Cell Name:    OTA_for_LV_19
* View Name:    schematic
************************************************************************

.SUBCKT OTA_for_LV_19 GND IBIAS VDD VN VO VP
*.PININFO VN:I VP:I VO:O GND:B IBIAS:B VDD:B
MM8q VO net29 VO VO p33 W=85u L=1.75u m=1
MM4 net23 VP net025 net025 p33 W=12u L=3u m=4
MM3 net17 VN net025 net025 p33 W=12u L=3u m=4
MM2 VO IBIAS VDD VDD p33 W=6u L=600n m=20
MM1 IBIAS IBIAS VDD VDD p33 W=6u L=600n m=1
MM0 net025 IBIAS VDD VDD p33 W=6u L=600n m=2
MM7 VO net23 GND GND n33 W=8u L=1u m=8
MM6 net23 net17 GND GND n33 W=6u L=4u m=2
MM5 net17 net17 GND GND n33 W=6u L=4u m=2
RR0 net29 net23 10.5254K $[rhrpo] $W=1u $L=10u M=1
.ENDS

